US06531502B1
5-Formyl-4-(2-ethoxycarbonylethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (281 mg), 5-chloro-2-oxindole (168 mg), and piperidine (2 drops) in ethanol (2 mL) were refluxed for 2 hours. The reaction mixture was cooled and the precipitate that formed was filtered, washed with ethanol and hexanes, and dried to give 369 mg (86%) of 4-(2-ethoxycarbonylethyl)-3-methyl-5-(5-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid ethyl ester as a light yellow needle crystals.

reactant | 5-Formyl-4-(2-ethoxycarbonylethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 281 mg | C(C)OC(=O)C=1NC(=C(C1C)CCC(=O)OCC)C=O | C14H19NO5
reactant | 5-chloro-2-oxindole | 168 mg | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
catalyst | piperidine | 2 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-(2-ethoxycarbonylethyl)-3-methyl-5-(5-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid ethyl ester | 369 mg, 86% | C(C)OC(=O)C=1NC(=C(C1C)CCC(=O)OCC)C=C1C(NC2=CC=C(C=C12)Cl)=O | C22H23ClN2O5
